Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
ketchup
 
Attending: ___.
 
Chief Complaint:
Presents for elective Total Thyroidectomy with neck dissection
 
Major Surgical or Invasive Procedure:
TOTAL THYROIDECTOMY WITH CENTRAL NECK DISSECTION, LEFT MODIFIED 
RADICAL THYROIDECTOMY

 
History of Present Illness:
Ms. ___ is a ___ year old woman in good health with no 
significant past medical history who originally presented to 
clinic with bilateral thyroid nodules which were biopsied 
outside of the country and returned malignant. Ms.
___ was visiting her home country ___ when she sought 
medical attention for a feeling of an unpleasant breast mass 
that seemed to wax and wane in concert with her menstrual cycle. 
In an ultrasound (___) of the upper torso and neck, there 
were no findings in the breast, but multiple
bilateral thyroid nodules were felt on exam. Per patient report, 
an immediate follow-up FNA biopsy was indicative of papillary 
thyroid cancer. Follow-up ultrasound performed ___ at ___ 
confirmed multiple bilateral thyroid lesions, the largest 
located in the left lower lobe, measuring 1.1 x 1.5 x 1.4 cm, 
and exhibiting concerning radiographic features. Ms. ___ 
denied any difficulties with or pain while swallowing, any 
changes in voice, weight loss, diarrhea, changes in bowel 
habits, dyspnea, or new tremor. Her imaging was assessed to be 
highly suggestive of multifocal malignancy. Given her suspicious 
level 6 nodes, she was scheduled for a total thyroidectomy and 
central neck
dissection. She presented to ___ for elective total 
thyroidectomy, central neck dissection and modified lateral neck 
dissection.
 
Past Medical History:
PMHx: Varicose veins, retina disorder, rosacea

PSHx: none
 
Social History:
___
Family History:
Parents     Alive and healthy
Brother     Alive and healthy
PGM         Papillary thyroid cancer (possibly in setting of
goiter as ___ is iodine-deficient region)
No other reported family history of cancer

 
Physical Exam:
Discharge physical exam:
VS: Temp: 98.0 PO BP: 112/72 HR: 71 RR: 18 O2 sat: 99% O2 (RA)
Gen: NAD, AAOx3. No hoarseness or appreciated voice changes, 
denies any weakness or numbness.
Neuro: CN II-XII grossly intact, moves four limbs with intent
Neck: Incision clean, dry, intact.
CV: RRR, No M/G/R appreciated
PULM: Breaths unlabored, CTAB, no appreciated rales, crackles or 
wheezing.
Abdomen: Soft, non-tender, non-distended.
Ext: Warm, non-tender, non-edematous

 
Pertinent Results:
___ 05:59PM BLOOD Calcium-9.1
___ 06:24AM BLOOD Calcium-8.7
___ 05:59PM BLOOD ___*
___ 06:24AM BLOOD ___r. ___ presented to ___ holding at ___ on ___ 
for a total thyroidectomy with central and modified left neck 
dissection. She tolerated the procedure well without 
complications (Please see operative note for further details). 
After a brief and uneventful stay in the PACU, the patient was 
transferred to the floor for further post-operative management.

Neuro: Pain was well controlled with oral Tylenol. The patient 
required one dose of Zofran for nausea while in PACU but was 
otherwise feeling well.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.

GI: The patient was initially kept NPO for the procedure. The 
patient left the OR tolerating sips, was later advanced to and 
tolerated a regular diet at time of discharge. Patient's intake 
and output were closely monitored. A single episode of emesis 
overnight resolved without medical intervention and did not 
recur. The patient was doing well on a regular diet before 
discharge.

GU: The patient was voiding without difficulty throughout her 
hospital course.

ID: The patient was closely monitored for signs and symptoms of 
infection and fever, which there were none.

Heme: The patient was encouraged to and ambulated early 
following surgery. She did not require DVT prophylaxis during 
admission and was discharged without any.

Endocrine: The patient's PTH and calcium levels were monitored 
following surgery and were found to be within normal level 
(slightly elevated PTH at 66 directly following surgery). She 
was started on thyroid hormone replacement therapy and was 
discharged with home prescriptions for it.

On ___, the patient was discharged home. At discharge, 
she was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. She will follow-up in surgery and 
endocrine clinics in ___ weeks (follow up appointments 
attached). This information was communicated to the patient 
directly prior to discharge, her questions were answered and she 
verbalized understanding.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Levothyroxine Sodium 150 mcg PO DAILY 
RX *levothyroxine 150 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Nodular thyroid, history of papillary thyroid cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ were admitted to the inpatient general surgery unit after 
your total thyroidectomy and neck dissection. ___ have adequate 
pain control and have tolerated a regular diet and may return 
home to continue your recovery. ___ will be discharged home on 
thyroid hormone replacement and calcium supplement, please take 
as prescribed.

Monitor for symptoms of low Calcium such as numbness or tingling 
around mouth/fingertips or muscle cramps in your legs. If ___ 
experience any of these symptoms please call Dr. ___ office 
for advice or if ___ have severe symptoms go to the emergency 
room.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed. ___ may take acetaminophen (Tylenol) 
as directed, but do not exceed 4000 mg in one day. Please get 
plenty of rest, continue to walk several times per day, and 
drink adequate amounts of fluids. 

Please call your surgeon or go to the emergency department if 
___ have increased pain, swelling, redness, or drainage from the 
incision site. ___ may shower and wash incisions with a mild 
soap and warm water. Avoid swimming and baths until cleared by 
your surgeon. Gently pat the area dry. ___ have a neck incision 
with steri-strips in place, do not remove, they will fall off on 
their own.

Call the office IMMEDIATELY if ___ have any of the following:  
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).  
2. A large amount of bleeding from the incision(s) or drain(s).  

3. Fever greater than 101.5 oF  
4. Severe pain NOT relieved by your medication.  
  
Return to the ER if:  
* If ___ are vomiting and cannot keep in fluids or your 
medications.  
* If ___ have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling ___.  
* Any serious change in your symptoms, or any new symptoms that 
concern ___.  

Thank ___ for allowing us to participate in your care.
 
Followup Instructions:
___